US09403845B2
Preparation of N-methoxy-2-[1-(3-pyridyl)pyrazol-4-yl]-6,7-dihydro-5H-1,3-benzothiazol-4-imine
2-[1-(3-pyridyl)pyrazol-4-yl]-6,7-dihydro-5H-1,3-benzothiazol-4-one (0.40 mmol, 0.119 g) was suspended in 4 ml THF, and O-methylhydroxylamine hydrochloride (0.44 mmol, 0.0367 g) followed by sodium acetate (0.80 mmol, 0.0656 g) were added. The reaction mixture was heated at reflux. After evaporation of the solvent, the residue was submitted to chromatography (Combiflash) to yield the title compound as a yellow solid.

reactant | 2-[1-(3-pyridyl)pyrazol-4-yl]-6,7-dihydro-5H-1,3-benzothiazol-4-one | 0.40 mmol, 0.119 g | N1=CC(=CC=C1)N1N=CC(=C1)C=1SC2=C(N1)C(CCC2)=O | C15H12N4OS
reactant | O-methylhydroxylamine hydrochloride | 0.44 mmol, 0.0367 g | Cl.CON
reactant | sodium acetate | 0.80 mmol, 0.0656 g | C(C)(=O)[O-].[Na+]
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | N-methoxy-2-[1-(3-pyridyl)pyrazol-4-yl]-6,7-dihydro-5H-1,3-benzothiazol-4-imine | CON=C1CCCC2=C1N=C(S2)C=2C=NN(C2)C=2C=NC=CC2 | C16H15N5OS
